US05977098
To a solution of 2-(3-methoxyphenyl)-3-(4-hydroxyphenoxy)benzo[b]thiophene (3.27 g, 9.40 mmol) in 200 mL of anhydrous DMF was added finely ground anhydrous K2CO3 (13.0 g, 94 mmol) and 2-chloroethylpiperidine (2.40 g, 14.1 mmol). The resulting solution was stirred under N2 at room temperature for 16 h. The reaction was then partitioned between EtOAc and H2O. The layers were separated and the organic was washed several times with H2O. The organic was dried (Na2SO4) and concentrated in vacuo to an oil that was chromatographed (SiO2, 0-5% CH3OH/CHCl3) to provide 3-[4-[2-(1-piperidinyl)ethoxy]phenoxy]-2-(3-methoxyphenyl)benzo[b]thiophene as a brown oil. This material was treated with Et2O.HCl to provide 2.0 g (43%) 3-[4-[2-(1-piperidinyl)ethoxy]phenoxy]-2-(3-methoxyphenyl)benzo[b]thiophene hydrochloride as a white solid.

reactant | 2-(3-methoxyphenyl)-3-(4-hydroxyphenoxy)benzo[b]thiophene | 9.40 mmol, 3.27 g | COC=1C=C(C=CC1)C1=C(C2=C(S1)C=CC=C2)OC2=CC=C(C=C2)O | C21H16O3S
reactant | K2CO3 | 94 mmol, 13.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-chloroethylpiperidine | 14.1 mmol, 2.40 g | ClCCN1CCCCC1 | C7H14ClN
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | 3-[4-[2-(1-piperidinyl)ethoxy]phenoxy]-2-(3-methoxyphenyl)benzo[b]thiophene | N1(CCCCC1)CCOC1=CC=C(OC=2C3=C(SC2C2=CC(=CC=C2)OC)C=CC=C3)C=C1 | C28H29NO3S
